US07994164B2
(E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((R)-1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-urea
Prepare a solution of 4 M hydrogen chloride in dioxane by diluting 12 M hydrochloric acid (10 mL) with dioxane (20 mL). Slowly add this solution to (E)-N—((R)-5-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide (0.005 mol, 3.0 g) at room temperature and stir for 48 hours. Quench the reaction mixture with aqueous 4 N potassium hydroxide solution, extract with dichloromethane and wash with saturated sodium bicarbonate solution. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduce pressure. Purify on silica gel column using 1% methanol in dichloromethane to obtain the title compound (1.2 g, 38%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) mixture of (E,Z)-N isomers. Major isomer: δ 1.44 (d, 3H), 2.23-2.26 (m, 2H), 2.32-2.33 (m 1H), 2.63 (dd, 1H), 2.77-2.82 (m 1H), 3.29-3.46 (m, 5H), 4.77-4.82 (m, 1H), 5.35-5.44 (br d, 2H), 6.65 (dd, 1H), 6.89 (dt, 3H), 7.13 (s 1H), 7.1 (s, 1H), 7.21-7.28 (m, 2H), 7.31-7.42 (m 1H), 7.55-7.62 (m, 1H), 9.95 (s, 1H). Minor isomer: δ 1.39 (d, 3H, E,Z-isomer), 2.23-2.26 (m, 2H), 2.32-2.33 (m 2H), 2.88-3.0 (m 1H), 3.29-3.46 (m, 5H), 4.80-4.99 (m, 1H), 5.35-5.44 (br d, 2H), 6.65 (dd, 1H), 6.89 (dt, 3H), 7.13 (s 1H), 7.1 (s, 1H), 7.21-7.28 (m, 2H), 7.31-7.42 (m 1H), 7.55-7.62 (m, 1H), 9.95 (s, 1H).

reactant | hydrogen chloride | 4 M | Cl | ClH
reactant | hydrochloric acid | 12 M, 10 mL | Cl | ClH
reactant | (E)-N—((R)-5-((E)-3,7-difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-(1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-cyanamide | 0.005 mol, 3.0 g | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C#N)[C@@H](CN4CCOCC4)C)C=C2)C=CC=C3F)C1 | C30H27F2N5O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (E)-N-(5-((E)-3,7-Difluoro-6H-dibenzo[b,e]oxepin-11-ylidenemethyl)-1-((R)-1-methyl-2-morpholin-4-yl-ethyl)-1,3-dihydro-benzoimidazol-2-ylidene)-urea | 1.2 g, 38% | FC=1C=CC\2=C(OCC3=C(/C2=C\C2=CC4=C(N(\C(\N4)=N\C(=O)N)[C@@H](CN4CCOCC4)C)C=C2)C=CC=C3F)C1 | C30H29F2N5O3
